US04703130
8-([1,1'-Biphenyl]-4-yloxy)-1-octanol
A mixture of 37.8 g of 8-bromo-1-octanol, 30.77 g of 4-phenylphenol, 8.31 g of sodium hydroxide and 34 g of N--methyl-N,N--dioctyl-1-octanaminium chloride in 100 ml of water and 175 ml of tetrahydrofuran was refluxed for 17 hours. The tetrahydrofuran was removed and the residue extracted with warm chloroform. The chloroform extract was washed with water, dried and the solvent removed. The residue was recrystallized from methanol, giving 35.26 g of the desired compound as a white solid, mp 101°-103° C.

reactant | 8-bromo-1-octanol | 37.8 g | BrCCCCCCCCO | C8H17BrO
reactant | 4-phenylphenol | 30.77 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | sodium hydroxide | 8.31 g | [OH-].[Na+]
catalyst | N--methyl-N,N--dioctyl-1-octanaminium chloride | 34 g | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | 8-([1,1'-Biphenyl]-4-yloxy)-1-octanol | 35.26 g | C1(=CC=C(C=C1)OCCCCCCCCO)C1=CC=CC=C1 | C20H26O2
